US05650428
The procedure described in Example 65 was repeated, except that (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-hydroxypropanamide (674.0 mg) was reacted with mesyl chloride to obtain (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxy-propanamide (582.16 mg).

reactant | (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-hydroxypropanamide | 674.0 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CO | C19H21BrN2O6S
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxy-propanamide | 582.16 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COS(=O)(=O)C | C20H23BrN2O8S2
